US07585880B2
3-{4-[(4-{[(4-isopropyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}benzyl)oxy]phenyl}propanoic acid
To a solution of 4-isopropyl-N-(2-pyridin-2-ylethyl)-1,3-thiazole-2-amine (127 mg) in N,N-dimethylformamide (2 mL) was added sodium hydride (20 mg), and the mixture was stirred at room temperature for 1 hr. Methyl 3-{4-([4-(chloromethyl)benzyl]oxy}phenyl)propanoate (159 mg) was added to the reaction mixture at room temperature, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:1 in volume ratio) to give a yellow oil. The oil was dissolved in methanol (5 mL), 2N aqueous sodium hydroxide solution (2 mL) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.) and concentrated to give the title compound (105 mg, yield 41%) as colorless crystals.

reactant | 4-isopropyl-N-(2-pyridin-2-ylethyl)-1,3-thiazole-2-amine | 127 mg | C(C)(C)C=1N=C(SC1)NCCC1=NC=CC=C1 | C13H17N3S
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | Methyl 3-{4-([4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 159 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | water | O | H2O
product | 3-{4-[(4-{[(4-isopropyl-1,3-thiazol-2-yl)(2-pyridin-2-ylethyl)amino]methyl}benzyl)oxy]phenyl}propanoic acid | 105 mg, yield 41% | C(C)(C)C=1N=C(SC1)N(CCC1=NC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C30H33N3O3S
